US06734301B2
(Chart C, Step 1): A solution of N-(4-methoxyphenyl)-2-oxo-2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)acetamide (355 mg, 0.98 mmol) in 1,2-dichloroethane (20 mL) is treated with TFA (2.5 mL) and triethylsilane (2.5 mL). The resulting clear golden solution is heated to reflux. After 18 hrs, the reaction is cooled to rt, washed twice with saturated sodium bicarbonate (50 mL), once with brine (50 mL), dried over MgSO4, filtered, and concentrated to give a golden oil. This material is purified by LC (230-400 silica gel) eluting with 5:0.5:94.5 methanol/NH4OH/dichloromethane to afford 275 mg of N-(4-methoxyphenyl)-2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)acetamide as a white foam. IR (drift) 1662, 1602, 1535, 1512, 1467, 1411, 1372, 1358, 1323, 1297, 1243, 1180, 1032, 830, 740 cm−1; OAMS supporting ions at: ESI+350.2.

reactant | N-(4-methoxyphenyl)-2-oxo-2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)acetamide | 0.98 mmol, 355 mg | COC1=CC=C(C=C1)NC(C(C1=C2N(C=3C=CC=CC13)CCNCC2)=O)=O | C21H21N3O3
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 2.5 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | N-(4-methoxyphenyl)-2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)acetamide | 275 mg | COC1=CC=C(C=C1)NC(CC1=C2N(C=3C=CC=CC13)CCNCC2)=O | C21H23N3O2
